Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / OxyContin / Vicodin / Tylenol-Codeine #3
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
upper endoscopy - ___

 
History of Present Illness:
___ obese ___ female h/o hypertension, 
hyperlipidemia presented to ED with acute burning substernal 
___ chest pain that came on suddenly on ___ evening when 
she was lying in bed. Chest pain radiates to back between 
shoulder blades. No SOB, diaphoresis, palpitations, headache, 
orthopnea, lightheadedness, nausea or vomiting. She took 
alkaseltzer, pepto bismol but no improvement. No recent travel, 
no recent surgery, h/o cancer or blood clots. Last stress test 
long time ago (unknown). 

 
Past Medical History:
hypertension
hyperlipidemia
 
Social History:
___
Family History:
Mother died age ___ from nasal CA
Father died from CAD at ___ 
 
Physical Exam:
Admission PEx:
VITALS: 100.0  137/78  96  18  98%RA
GENERAL: WDWN in NAD. Alert and oriented. No central or 
peripheral cyanosis; no jaundice, no palor.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Oropharynx clear.
NECK: Supple; no JVD; no LAD.
CARDIAC: RRR, normal S1, S2; no S3, S4. No m/r/g.
LUNGS: CTAB, no wh/r/rh. Respirations unlabored, no accessory 
muscle use.
ABDOMEN: +BS. Soft, NTND, no rebound, no gaurding. No HSM. 
Tender epigastric region
GU: No foley
EXTREMITIES: WWP, no cyanosis, no edema. 2+ pulses.
SKIN: No rashes, bruising, lesions.
NEURO: CN2-12 intact; moving 4 extremities spontaneously

==========================================================

Discharge PEx:
VS:  Tc 97.1, Tmax 98, BP 121/53 (117-145/45-68), HR 87 regular 
(___),  RR 18, 100% RA
GENERAL: Obese woman in NAD. Alert and oriented. No central or 
peripheral cyanosis; no jaundice, no palor.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Oropharynx clear.
NECK: Supple; no JVD; no LAD.
CARDIAC: RRR, normal S1, S2; no S3, S4. No m/r/g. CP 
reproducible, worst at xyphoid process/sternum
LUNGS: CTAB, no wh/r/rh. Respirations unlabored, no accessory 
muscle use.
ABDOMEN: +BS. Soft, NTND, no rebound, no gaurding. No HSM or 
tenderness
GU: No foley
EXTREMITIES: warm, no cyanosis, no edema. 2+ pulses.
SKIN: No rashes, bruising, lesions.
NEURO: CN2-12 intact; moving 4 extremities spontaneously
 
Pertinent Results:
Admission labs:
___ 10:50AM BLOOD WBC-8.3 RBC-4.21 Hgb-12.6 Hct-33.0* 
MCV-79* MCH-29.8 MCHC-38.0* RDW-14.6 Plt ___
___ 10:50AM BLOOD Glucose-118* UreaN-17 Creat-1.0 Na-138 
K-3.5 Cl-99 HCO3-26 AnGap-17
___ 10:50AM BLOOD ALT-21 AST-19 AlkPhos-140* TotBili-0.4
___ 05:20PM BLOOD cTropnT-<0.01
___ 10:50AM BLOOD cTropnT-<0.01
___ 10:50AM BLOOD Lipase-22
___ 07:30AM BLOOD Calcium-9.6 Phos-4.7*# Mg-2.3
___ 06:55AM BLOOD Calcium-9.9 Phos-4.3 Mg-2.1
___ 05:50PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG 
___ 05:50PM URINE RBC-12* WBC-27* Bacteri-NONE Yeast-NONE 
Epi-28
.
Discharge labs:
___ 06:55AM BLOOD WBC-7.4 RBC-4.27 Hgb-12.4 Hct-33.4* 
MCV-78* MCH-29.0 MCHC-37.1* RDW-14.4 Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-20 Creat-1.2* Na-138 
K-4.5 Cl-98 HCO3-31 AnGap-14
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
.
URINE:
___ 10:00AM URINE RBC-0 ___ Bacteri-NONE Yeast-NONE 
___ TransE-<1
___ 10:00AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-7.5 Leuks-MOD
.
EKG ___: sinus rhythm, normal axis, slightly prolonged PR 
interval, nonspecific T wave changes. 
.
IMAGING:
CTA chest with and without contrast - noncoronary ___:
IMPRESSION:
1. No pulmonary embolism or acute aortic pathology.
2. Prominent subcarinal node 1 cm in size, similar to prior 
study from over ___
years prior, and of doubtful clinical significance.
3. Bibasilar atelectasis.
4. Unchanged 2-mm right lower lobe nodule, for which no 
additional followup
is required.
.
Persantin stress test ___:
IMPRESSION: Atypical symptoms with no ischemic ST segment 
changes.
Appropriate hemodynamic response to the Persantine infusion. 
IMPRESSION: 1. No myocardial perfusion defect or wall motion 
abnormality. 2.LVEF 70%.
.
RUQ US ___:
IMPRESSION:
1. Normal-appearing gallbladder without stones or evidence of 
cholecystitis.
2. Echogenic liver compatible with fatty infiltration. Other 
forms of liver
disease including advanced hepatic fibrosis/cirrhosis cannot be 
excluded on
this study.
.
EGD ___:
Impression: 
Abnormal mucosa in the gastroesophageal junction (biopsy)
Erythema and erosion in the antrum and stomach body compatible 
with gastritis (biopsy)
Otherwise normal EGD to third part of the duodenum
Recommendations: 
Prilosec 40mg BID for one month.
Follow-up with inpatient GI team
.
Stomach Antral Biopsy:
Chronic inactive gastritis with intestinal metaplasia.
A single poorly formed granuloma is identified, but is present 
only on original level 1, precluding further evaluation by 
special stains. Helicobacter immunostain is negative for H. 
pylori, with satisfactory controls. Other biopsies in other 
regions of the stomach were normal. 
 
Brief Hospital Course:
___ obese ___ female with history of 
Hypertension, Hyperlipidemia presented to ED with acute burning 
substernal ___, had extensive work up for ACS, PE, dissection 
and hepatobiliary pathology which were all ruled out. She was 
admitted for further workup, found to have mild gastritis on 
endoscopy.
.
# Chest Pain: Initially in the ED she received morphine and ASA. 
She had extensive work up in the ED for ACS, PE, aortic 
dissection, pneumonia, pancreatitis, hepatobiliary pathology, 
which all came back negative (please see results section). After 
these results, It was thought that most likely her pain is due 
to GI etiology. She was kept on IV pantoprazole till she had her 
EGD done, which showed mild gastritis. Biopsies were taken which 
were within normal limits. H pylori was negative.  She was 
discharged on omeprazole delayed release 40 mg twice daily and 
maalox tablet twice daily as needed for heartburn. She was also 
given tramadol 50 mg Tablet every 8 hours for 5 days to help her 
with her pain. She was advised not to drive or operate machinery 
while taking tramadol. She has close follow up with her PCP and 
GI clinic. 
.
# Hypertension: She received metoprolol instead of atenolol 
while in the hospital. On discharge, she was sent back on her 
home medication atenolol.
.
Hyperlipidemia: atorvastatin 20 mg was given instead of her home 
medication simvastatin given possible reaction with amlodipine. 
She was discharged on 
atorvastatin 20 mg daily.
.
**************
Transitional issues:
follow up symptoms

 
Medications on Admission:
Atenolol 50 daily
Simva 40 daily
Ranitidine 150 BID
Amlodipine 10 daily
Losartan/HCTZ 100/25
 
Discharge Medications:
1. atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
2. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
3. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
4. losartan-hydrochlorothiazide 100-25 mg Tablet Sig: One (1) 
Tablet PO once a day.  
5. Maalox Advanced 1,000-60 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO twice a day as needed for heartburn.
Disp:*60 Tablet, Chewable(s)* Refills:*0*
6. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. tramadol 50 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours: Please do not drive or operate machinery on this 
medication.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epigastric pain, secondary to gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted for burning chest 
pain and were fully evaluated for a heart attack, pulmonary 
embolus, aortic dissection, pancreatitis, cholecystitis, gall 
stones, and pneumonia, all of which you do NOT have. We believed 
your symptoms were likely gastrointestinal in nature and 
therefore performed an upper endoscopy. We found mild gastritis. 
We have started you on omeprazole and hope that this may help 
with your symptoms. Also, you should avoid eating close to 
bedtime, avoid lying down within 30 minutes of a meal, as well 
as certain foods that may trigger pain such as spicy/fried/sour 
foods. You will need to follow up with your PCP ___ 1 week to 
assess for improvement in symptoms while on this new medication. 

.
Please START the following medications:
OMEPRAZOLE
MAALOX
ATORVASTATIN
TRAMADOL

Please STOP the following medications:
SIMVASTATIN

We wish you a speedy recovery and hope that you feel better 
soon.
 
Followup Instructions:
___